US08729078B2
In a 25 mL round-bottomed flask, 6-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (713 mg, 2.02 mmol, Eq: 1.00), N,N-dimethylethylenediamine (1.07 g, 1.32 ml, 12.1 mmol, Eq: 6) and bis(tri-tert-butylphosphine)palladium(0) (206 mg, 404 μmol, Eq: 0.2) were combined with toluene (2 ml) to give a yellow solution. Sodium tert-butoxide (582 mg, 6.05 mmol, Eq: 3) was added. The reaction mixture was heated to 80° C. and stirred for 1 h, then poured into 20 mL sat NaCl and extracted with EtOAc (3×20 mL). The organic layers were dried over MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography (silica gel, 12 g, 2% to 5% MeOH in DCM) to give N1,N1-dimethyl-N2-(1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-6-yl)ethane-1,2-diamine (405 mg, 56%) as yellow oil that solidified upon standing.

reactant | 6-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 2.02 mmol, 713 mg | BrC1=CC=C2C(=N1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25BrN2Si
reactant | N,N-dimethylethylenediamine | 12.1 mmol, 1.32 ml, 1.07 g | CN(CCN)C | C4H12N2
reactant | Sodium tert-butoxide | 6.05 mmol, 582 mg | CC(C)([O-])C.[Na+]
reactant | NaCl | [Na+].[Cl-]
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 404 μmol, 206 mg | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | N1,N1-dimethyl-N2-(1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridin-6-yl)ethane-1,2-diamine | 405 mg, 56% | CN(CCNC1=CC=C2C(=N1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C)C | C20H36N4Si
